US08420812B2
4-(4-Methoxy-phenylethynyl)-6-methyl-pyrimidine
This product was prepared from toluene-4-sulfonic acid 6-methyl-pyrimidin-4-yl ester and 1-ethynyl-4-methoxy-benzene following the general procedure for the Sonogashira cross-coupling reaction described above. Chromatography eluent: heptane/EtOAc 8:2; yield (52 mg, 46%); 1H NMR δ (CDCl3): 8.99 (s, 1H), 7.32 (d, J=8.60 Hz, 2H), 7.22 (s, 1H), 7.17 (d, J=8.43 Hz, 2H), 3.83 (s, 3H), 2.51 (s, 3H); LCMS m/z: 224.

reactant | toluene-4-sulfonic acid 6-methyl-pyrimidin-4-yl ester | CC1=CC(=NC=N1)OS(=O)(=O)C1=CC=C(C=C1)C | C12H12N2O3S
reactant | 1-ethynyl-4-methoxy-benzene | C(#C)C1=CC=C(C=C1)OC | C9H8O
solvent | heptane EtOAc | CCCCCCC.CCOC(=O)C
product | 4-(4-Methoxy-phenylethynyl)-6-methyl-pyrimidine | COC1=CC=C(C=C1)C#CC1=NC=NC(=C1)C | C14H12N2O
